US06147255
(a) 4-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-2-pyrrolecarboxaldehyde
In a similar manner to Example 3(b), by reaction of 2.47 g (10 mmol) of 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylboronic acid with 1.5 g (8.4 mmol) of 4-bromo-2-pyrrolecarboxaldehyde, 950 mg (38.5%) of the expected aldehyde are obtained, with a melting point of 128-9° C.

reactant | 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthylboronic acid | 10 mmol, 2.47 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)B(O)O | C15H23BO2
reactant | 4-bromo-2-pyrrolecarboxaldehyde | 8.4 mmol, 1.5 g | BrC=1C=C(NC1)C=O | C5H4BrNO
product | 4-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-2-naphthyl)-2-pyrrolecarboxaldehyde | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C=1C=C(NC1)C=O | C20H25NO
